US07960563B2
3-Bromo-6-fluoro-2-(methyloxy)benzaldehyde (D18)
To a solution of diisopropylamine (6.89 g, 9.6 mL, 68.3 mmol) in THF (100 mL) at −78° C. was added n-butyl lithium (33.5 mL of 1.6 M solution in hexane, 53.6 mmol) over 3 mins. After stirring at −78° C. for 10 mins, 2-bromo-5-fluoroanisole (10 g, 48.8 mmol) in THF (20 mL) was added dropwise over 15 mins. After completion of the addition, the mixture was stirred at −78° C. for 1 hr and then DMF (3.91 g, 4.12 mL, 53.6 mmol) was added dropwise over 3 mins and stirring was continued at −78° C. for 45 mins. Saturated NH4Cl solution was added and the mixture allowed to each room temperature. Diethyl ether and 2M HCl were added, the product was extracted into diethyl ether and the combined extracts were washed with brine, dried and evaporated. Chromatography on silica gel followed by trituration of the product with diethyl ether gave the title compound (D18) as a yellow solid (6.84 g)

reactant | diisopropylamine | 68.3 mmol, 9.6 mL, 6.89 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 53.6 mmol, 1.6 M, 33.5 mL | C(CCC)[Li]
reactant | 2-bromo-5-fluoroanisole | 48.8 mmol, 10 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | DMF | 53.6 mmol, 4.12 mL, 3.91 g | CN(C)C=O | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 3-Bromo-6-fluoro-2-(methyloxy)benzaldehyde | BrC=1C(=C(C=O)C(=CC1)F)OC | C8H6BrFO2
